US09034866B2
Similar to as described in General Procedure G, racemic methyl 10-bromo-6-(2-hydroxypropan-2-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate was reacted with (2R)-2-(5-methyl-1,2-oxazol-3-yl)but-3-yn-2-ol to give methyl 10-((R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-6-(2-hydroxypropan-2-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate. M+1=452. A solution of the above compound (100 mg, 0.22 mmol, 1.00 equiv) in methanol (Saturated with ammonia, 20 mL) was stirred for 3 days at 60° C. The resulting mixture was concentrated under vacuum. The residue was purified on a silica gel column with dichloromethane/methanol (19:1) to give a mixture of diastereoisomers. The two diasteromers were separated by Chiral-Prep-HPLC with the following conditions (Prep-HPLC-004): Column, Chiralpak IC, 2*25 cm, 5 um; mobile phase, Hex and ethanol (hold 40.0% ethanol in 25 min); Detector, UV 254/220 nm to give 12.2 mg (13%) Compound 1 as a off-white solid, Chiralpak IC-3, 25° C., 254 nm, 60:40 Hex (0.1% TEA):EtOH, 1 mL/min, tR=2,7 min; and 11.5 mg (12%) of Compound 2 as an off-white solid, Chiralpak IC-3, 25° C., 254 nm, 60:40 Hex (0.1% TEA):EtOH, 1 mL/min, tR=5.0 min.

reactant | racemic methyl 10-bromo-6-(2-hydroxypropan-2-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate | BrC=1C=CC2=C(C=3N(CC(O2)C(C)(C)O)C=C(N3)C(=O)OC)C1 | C16H17BrN2O4
reactant | (2R)-2-(5-methyl-1,2-oxazol-3-yl)but-3-yn-2-ol | CC1=CC(=NO1)[C@@](C)(C#C)O | C8H9NO2
product | methyl 10-((R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-6-(2-hydroxypropan-2-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxylate | O[C@@](C#CC=1C=CC2=C(C=3N(CC(O2)C(C)(C)O)C=C(N3)C(=O)OC)C1)(C)C1=NOC(=C1)C | C24H25N3O6
